Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
NG tube placement
 
History of Present Illness:
Mr. ___ is a ___ male with a PMH of stage 4 appendicle
cancer s/p resection and intraabadominal chemotherapy at ___ and presented to ___ with
worsening of his chronic abdominal pain over the
last 48 hours. 

In regard to the patient's past surgical hx he states that he
underwent an extensive resection for metastatic disease on
___ at ___ involving removal of his appendix, 
part
of his colon, a portion of his liver, as well as a large portion
of his omentum. He also received intraperitoneal chemotherapy
thereafter but patient is an unreliable historian as to exactly
when his last therapy was.  At some point patient stopped
responding to chemotherapy and was enrolled in a clinical trial. 

He states this also failed. Recently, he was admitted to ___ recently for small bowel obstruction, and was discharged
less than 2 weeks ago.  On discharge, he was given '1.5 tabs' of
dilaudid every 3 hours and ativan
every 6 hours.  He has had no bowel movement or passage of 
flatus
in the last ___ days. He endorses constant abdominal pain and
nausesa. 

CT scan from ___ demonstrated a "large
intraperitoneal fluid collection within the mesentery containing
an air-fluid level" and a White count of 11.4. patient is HD
stable.  Pt was then transferred to ___ for further surgical
management as ___ and ___ were full. 

While at ___, he was seen by our surgery team and an NGT was
place where 1L of gastric content was removed. On the floor the
patient continues to have ___ abdominal pain but

 
Past Medical History:
Appendicle CA, stage 4
laparotomy and resection of portions of colon, omentum, liver -

 
Physical Exam:
VITALS: Afebrile and vital signs stable (see eFlowsheet)
GENERAL: Alert and in moderate discomfort
EYES: pale and icteric
ENT: Ears and nose without visible erythema, masses, or trauma. 
Oropharynx without visible lesion, erythema or exudate
CV: Heart regular, no murmur, no S3, no S4.  No JVD.
RESP: Lungs clear to auscultation with good air movement
bilaterally.  Breathing is non-labored
GI: Abdomen soft, distended, tender to palpation.  
GU: No suprapubic fullness or tenderness to palpation
MSK: Neck supple, moves all extremities, strength grossly full
and symmetric bilaterally in all limbs
SKIN: No rashes or ulcerations noted
NEURO: Alert, oriented, face symmetric, gaze conjugate with 
EOMI,
speech fluent, moves all limbs, sensation to light touch grossly
intact throughout
PSYCH: pleasant, tired in affect

 
Pertinent Results:
___ 04:05AM BLOOD WBC-10.1* RBC-3.39* Hgb-10.4* Hct-32.3* 
MCV-95 MCH-30.7 MCHC-32.2 RDW-15.1 RDWSD-52.2* Plt ___
___ 04:05AM BLOOD Glucose-276* UreaN-30* Creat-0.7 Na-140 
K-4.8 Cl-104 HCO3-22 AnGap-14
 
Brief Hospital Course:
Mr. ___ is a ___ male with a PMH of stage 4 appendicle
cancer s/p resection and intraabadominal chemotherapy at ___ and initially presented to ___ 
with
worsening of his chronic abdominal pain over the
last 48 hours and was found to have large intraperitoneal fluid 
collection within the mesentery containing
an air-fluid level. He was subsequently transferred to ___ for 
further surgical management. On arrival he was evaluated by our 
surgical team and was concern about an SBO. Our providers had an 
extensive discussion with the patient and wife (cell: 
___ who is on her way from ___ and told her 
about the CT findings suggesting perforation. Based on her 
discussion with her husband a few days ago about starting to 
pursue comfort-focused care, we think a trial of conservative 
management with antibiotics, gastric decompression, and fluids 
is reasonable. She is aware though that things may not go well 
and then a transition to comfort care would likely be 
appropriate. Given his complex medical history and advance stage 
of cancer, the surgical team did not have any surgical 
recommendations. An NG tube was placed for decompression and 1L 
of gastric content was removed. He was also medically  managed 
with IV dilaudid for pain control and was later transferred to 
BWH for further management. 

 
Medications on Admission:
The Preadmission Medication list may be inaccurate and requires 
futher investigation.
1. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN Pain - Moderate 

 
Discharge Medications:
None
 
Discharge Disposition:
Extended Care
 
Discharge Diagnosis:
SBO
Abdominal fluid collection 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
you are being referred to ___. Please continue 
to follow up with your physicians when you leave. 
 
Followup Instructions:
___